US08541448B2
Intermediate 9.2: Dimethyl 2-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylsulfonamido)succinate
Into a 50-mL round-bottom flask, was placed a solution of dimethyl 2-aminosuccinate hydrochloride (107 mg, 0.54 mmol, 1.00 equiv) in pyridine (5 mL). This was followed by the addition of 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride (300 mg, 0.69 mmol, 1.27 equiv, 90%) in several batches. The resulting solution was stirred overnight at room temperature. The resulting mixture was concentrated under vacuum. The residue was applied onto a silica gel column with dichloromethane:methanol (50:1). This resulted in 200 mg (72%) of the title compound as a colorless oil

reactant | dimethyl 2-aminosuccinate hydrochloride | 0.54 mmol, 107 mg, 1.00 equiv | Cl.NC(C(=O)OC)CC(=O)OC
reactant | 3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)benzene-1-sulfonyl chloride | 0.69 mmol, 300 mg, 1.27 equiv | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C=1C=C(C=CC1)S(=O)(=O)Cl | C16H14Cl3NO2S
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | Dimethyl 2-(3-(6,8-dichloro-2-methyl-1,2,3,4-tetrahydroisoquinolin-4-yl)phenylsulfonamido)succinate | 200 mg, 72% | ClC=1C=C2C(CN(CC2=C(C1)Cl)C)C=1C=C(C=CC1)S(=O)(=O)NC(C(=O)OC)CC(=O)OC | C22H24Cl2N2O6S
